US05091398
c) 1-tert-Pentyl-1-nitroso semicarbazide
1-tert-Pentyl semicarbazide (12 g) in a mixture of 50 ml of water and 25 ml of methanol is cooled in an ice bath and 5.6 g of sodium nitrite are added. Conc. hydrochloric acid is added dropwise to this solution until a pH of 4 to 5 is established.

reactant | 1-tert-Pentyl semicarbazide | 12 g | C(C)(C)(CC)NNC(=O)N | C6H15N3O
reactant | sodium nitrite | 5.6 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 1-tert-Pentyl-1-nitroso semicarbazide | C(C)(C)(CC)N(NC(=O)N)N=O | C6H14N4O2
